2113-03-30 08:01:00 Physician Resident Progress Note
Chief Complaint: ftt
   24 Hour Events:
   weaned fio2 to 50%with improvement in co2 and ph
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-3-29**] 09:00 PM
   Piperacillin - [**2113-3-30**] 04:30 AM
   Metronidazole - [**2113-3-30**] 07:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-3-29**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-30**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.4
   HR: 88 (84 - 103) bpm
   BP: 89/45(56) {89/35(49) - 143/119(173)} mmHg
   RR: 26 (18 - 30) insp/min
   SpO2: 82%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    800 mL
                                                                  1,038 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                  1,038 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                     40 mL
   Urine:
                                                                     45 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                    998 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 82%
   ABG: 7.35/51/106/27/0
   PaO2 / FiO2: 221
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   249 K/uL
   10.8 g/dL
   94 mg/dL
   0.6 mg/dL
   27 mEq/L
   5.4 mEq/L
   16 mg/dL
   115 mEq/L
   148 mEq/L
   35.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2113-3-29**]  07:34 PM
                             [**2113-3-29**]  09:57 PM
                             [**2113-3-30**]  01:39 AM
   WBC
   15.7
   Hct
   35.7
   Plt
   249
   Cr
   0.6
   TropT
   0.04
   TCO2
   30
   29
   Glucose
   94
   Other labs: PT / PTT / INR:15.6/35.6/1.4, CK / CKMB /
   Troponin-T:218/6/0.04, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   1.       Hypoxemic Respiratory Distress: This is likely due to V/Q
   mismatch in the setting of possible infiltrate vs. effusion.  Given
   that she
s recently been hospitalized twice within the past month it
   very possible that she has a hospital acquired pneumonia.  Secondly,
   she could have CHF, although the etiology is unknown, and without a hx
   of CHF, this could likely be due to ischemia.  EKG not suggestive of
   ischemia at this time.  Patient without arrhytmia at this point.
   Differential also includes hypoalbuminemic transudative effusions
   a.       Will continue patient on NRB and obtain an ABG to assess her
   oxygenation status and to see if she has A-a gradient
   b.       Will cycle cardiac enzymes as a silent infarction may have
   caused CHF, although initial Tn at her baseline.  CK elevated which
   could suggest acute MI.  Will follow.
   c.       Will treat empirically for HAP (see below)
   d.       EKG in am
   e.       CXR in am
   f.         Follow albumin
   2.       Infection: patient may have an infiltrate on her CXR, although
   difficult to tell.  Risk factors include recent hospitalizations and
   she does have a leuckocytosis with a marked left shift, which would
   suggest ongoing infection.  DDx also includes aspiration pneumonia
   given location of infiltrate.
   a.       Will obtain urine and sputum cultures, blood cultures were
   obtained in the ED
   b.       Will empirically treat with Vancomycin and Zosyn for HAP
   c.       Will send urine legionella antigen
   3.       C. difficile: Patient currently undergoing treatment with
   Flagyl for C.diff
   a.       Will continue with IV Flagyl
   4.       Hypernatremia: Likely due to dehydration at this point given
   ongoing diarrhea from Cdiff and decreased PO intake.  Patient also
   likely free water depleted.
   a.       Will start fluid resusciation with NS at this point, but may
   need to switch to D5W or D51/2NS.
   b.       Will attempt to obtain urine lytes, although patient with
   marginal UO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-3-29**] 06:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-03-30 09:30:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight events
   ABG: 7.29/60/227 on NRB
   Weaned off  7.35/51/106
                                 History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) 59**] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-3-29**] 09:00 PM
   Piperacillin - [**2113-3-30**] 04:30 AM
   Metronidazole - [**2113-3-30**] 07:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2113-3-29**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-30**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.4
C (95.8
   HR: 101 (84 - 103) bpm
   BP: 118/49(65) {89/35(49) - 149/119(173)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 82%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    800 mL
                                                                  1,172 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                     40 mL
   Urine:
                                                                     45 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 82%
   ABG: 7.35/51/106/27/0
   PaO2 / FiO2: 221
   Physical Examination
   Labs / Radiology
   10.8 g/dL
   249 K/uL
   94 mg/dL
   0.6 mg/dL
   27 mEq/L
   5.4 mEq/L
   16 mg/dL
   115 mEq/L
   148 mEq/L
   35.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2113-3-29**]  07:34 PM
                             [**2113-3-29**]  09:57 PM
                             [**2113-3-30**]  01:39 AM
   WBC
   15.7
   Hct
   35.7
   Plt
   249
   Cr
   0.6
   TropT
   0.04
   TCO2
   30
   29
   Glucose
   94
   Other labs: PT / PTT / INR:15.6/35.6/1.4, CK / CKMB /
   Troponin-T:218/6/0.04, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yr old woman with resp distress,
   1.       Hypoxemic Resp Distress: In fact, ABG supports adequate
   oxygenation.
          CXR with stable bilat pleural effusiions and more dense LLL
   infiltrate this AM.
                 Cover for Nosocomial PNA, Vanco/ZOsyn, Flagyl (more for C
   diff.)
   2. Hemodynamics: relative low BP, clinically appears dry, will continue
   to volume resusitate and monitor closely impact on oxygentation
   3. ARF: likely pre renal, IVF, watch UOP with IVF, check urine lytes
   4. UTI: follow up culture, on ABX
   5. Family: FULL code per family, prior [**Female First Name (un) **] service involvment at last
   admit as goals of care an nutrition are big issue.
   In fact family had called [**First Name5 (NamePattern1) 1290**] [**Last Name (NamePattern1) 2491**] yesterday and initiated hospice
   referral. Will plan for family meeting today to clarify goals of care
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-3-29**] 06:23 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor after family meeting pending discussions
   Total time spent: 35

2113-03-31 07:44:00 Physician Resident Progress Note
Chief Complaint: FTT
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2113-3-30**] 04:07 PM
   Bolused 250 cc NS for low UOP.
   - FeNa 0.3% (Pre-Renal), rebolused with 250cc NS x 2 during the day.
   UOP did not pick up with boluses so attempted 10mg IV lasix and patient
   put out 360cc urine promptly.
   - TTE: EF 75% but with at least 2+ MR so actual EF is less.
   - Sputum growing GPRods
   - Speech and Swallow Consult ordered
   - Unable to get accurate O2 sat, patient not tachypneic but more
   comfortable with nasal cannula - ABG 7.38/38/88 on 3L NC.
   - IV Access increasingly difficult, have 1x 22guage at this time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-3-30**] 04:40 PM
   Vancomycin - [**2113-3-30**] 08:00 PM
   Metronidazole - [**2113-3-31**] 12:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-3-31**] 04:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-30**] 06:20 PM
   Furosemide (Lasix) - [**2113-3-31**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2113-3-31**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-31**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 108 (94 - 111) bpm
   BP: 100/61(67) {65/38(54) - 168/116(148)} mmHg
   RR: 30 (11 - 37) insp/min
   SpO2: 76%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  3,635 mL
                                                                    423 mL
   PO:
             TF:
   IVF:
                                                                  3,635 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                    178 mL
                                                                    463 mL
   Urine:
                                                                    178 mL
                                                                    463 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,457 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 76%
   ABG: 7.38/38/87.[**Numeric Identifier 244**]/16/-1
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: unequal pupils
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), JVP flat
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Bronchial: )
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   317 K/uL
   10.3 g/dL
   64 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.7 mEq/L
   14 mg/dL
   119 mEq/L
   148 mEq/L
   35.4 %
   18.5 K/uL
        [image002.jpg]
   [**3-30**]
   The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity is unusually
   small. Left ventricular systolic function is hyperdynamic (EF 70-80%).
   Right ventricular chamber size and free wall motion are normal. The
   ascending aorta is mildly dilated. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. The mitral valve
   leaflets are mildly thickened. There is no mitral valve prolapse.
   Moderate (2+) mitral regurgitation is seen. [Due to acoustic shadowing,
   the severity of mitral regurgitation may be significantly
   UNDERestimated.] The tricuspid valve leaflets are mildly thickened. The
   supporting structures of the tricuspid valve are thickened/fibrotic.
   Moderate to severe [3+] tricuspid regurgitation is seen. There is
   moderate pulmonary artery systolic hypertension. There is a
   trivial/physiologic pericardial effusion.
   IMPRESSION: hypertrophic, hyperdynamic left ventricle with very small
   cavity size; at least moderate mitral regurgitation and
   moderate-to-severe tricuspid regurgitation
   [**3-30**]
   As compared to the previous radiograph, there is no major change. The
   extent
   of the bilateral pleural effusions obviously caused by pulmonary edema
   is
   constant. Unchanged cardiomegaly with associated basilar atelectasis.
   Diffuse osteopenia with marked thoracic kyphosis
                             [**2113-3-29**]  07:34 PM
                             [**2113-3-29**]  09:57 PM
                             [**2113-3-30**]  01:39 AM
                             [**2113-3-30**]  09:41 AM
                             [**2113-3-30**]  09:38 PM
                             [**2113-3-31**]  04:08 AM
                             [**2113-3-31**]  04:57 AM
   WBC
   15.7
   18.5
   Hct
   35.7
   35.4
   Plt
   249
   317
   Cr
   0.6
   0.5
   0.5
   0.6
   TropT
   0.04
   TCO2
   30
   29
   23
   Glucose
   94
   78
   82
   73
   64
   Other labs: PT / PTT / INR:15.6/35.6/1.4, CK / CKMB /
   Troponin-T:218/6/0.04, ALT / AST:[**9-14**], Alk Phos / T Bili:61/0.4,
   Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:456 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   1.       Hypoxemic Respiratory Distress: This is likely due to V/Q
   mismatch in the setting of possible infiltrate vs. effusion.  Given
   that she
s recently been hospitalized twice within the past month it
   very possible that she has a hospital acquired pneumonia.  Secondly,
   she could have CHF, although the etiology is unknown, and without a hx
   of CHF, this could likely be due to ischemia.  EKG not suggestive of
   ischemia at this time.  Patient without arrhytmia at this point.
   Differential also includes hypoalbuminemic transudative effusions
   a.       Patient weaned down to nasal canula with stable ABG
   b.       TTE shows hyperdynamic EF with LVH, possible component
   diastolic dysfunction, responded to lasix
   c.       Continue with HAP tx with vanco/zosyn/flagyl
   d.       Consider CT chest to further evaluate pulmonary effusions and
   parenchyma
   2.       Infection/Leukocytosis: patient may have an infiltrate on her
   CXR, although difficult to tell.  Risk factors include recent
   hospitalizations and she does have a leuckocytosis with a marked left
   shift, which would suggest ongoing infection.  DDx also includes
   aspiration pneumonia given location of infiltrate.
   a.       Resent urine cx, blood cx gram + rods this is likely
   contaminant, resent blood cx, resent sputum given inadequate sample
   b.       Will empirically treat with Vancomycin and Zosyn for HAP 10
   day course
   c.       Urine legionella antigen negative
   d.       Continue tx for c. diff
   3.       C. difficile: Patient currently undergoing treatment with
   Flagyl for C.diff
   a.       Will continue with IV Flagyl, check C.diff
   b.       Optimize bowel regimen given no BM since admission
   4.       Volume depletion: Likely due to dehydration at this point
   given ongoing diarrhea from Cdiff and decreased PO intake.  Patient
   also likely free water depleted. CXR shows edema
   a.       PRN furosemide for UOP<30cc/hr
   b.       Urine sodium 54 not c/w volume depletion or failure, possible
   ATN from diastolic dysfunction, infection?
   c.       Consider renal ultrasound if patient  continues unresponsive
   to IVF
   5. Nutrition: Have S&S reassess today given patient more alert, if not
   need to discuss feeding tube
   6. GOALS OF CARE: palliative care to meet with familt today to discus
   goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2113-3-31**] 12:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor

2113-03-31 10:16:00 Physician Attending Progress Note
Chief Complaint: resp distress
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2113-3-30**] 04:07 PM
   hypertrophic, hyperdynamic left ventricle with very small cavity size;
   at least moderate mitral regurgitation and moderate-to-severe tricuspid
   regurgitation
   Repeat ABG last PM as could not pick up sats but wanted to put on nasal
   cannula 7.38/38/88 on 3 L nasal cannula
   Lasix last PM and has put out 500 cc
   BP stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2113-3-30**] 04:40 PM
   Vancomycin - [**2113-3-30**] 08:00 PM
   Metronidazole - [**2113-3-31**] 12:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-3-31**] 04:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-30**] 06:20 PM
   Furosemide (Lasix) - [**2113-3-31**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2113-3-31**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2113-3-31**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 101 (94 - 115) bpm
   BP: 141/80(138) {65/38(54) - 168/116(148)} mmHg
   RR: 26 (11 - 37) insp/min
   SpO2: 76%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  3,635 mL
                                                                    750 mL
   PO:
             TF:
   IVF:
                                                                  3,635 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                    178 mL
                                                                    543 mL
   Urine:
                                                                    178 mL
                                                                    543 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,457 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 76%
   ABG: 7.38/38/87.[**Numeric Identifier 244**]/16/-1
   PaO2 / FiO2: 176
   Physical Examination
   Gen
 lying in bed, speaking fluently but not making any sense agitated
   CV
 tachy RR 2/6 sys m
   Chest: dimihsed BS throughout but esp l base no wheezes
   Abd: soft+BS
   Ext: + le dressing pedal edema
   Labs / Radiology
   10.3 g/dL
   317 K/uL
   64 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.7 mEq/L
   14 mg/dL
   119 mEq/L
   148 mEq/L
   35.4 %
   18.5 K/uL
        [image002.jpg]
                             [**2113-3-29**]  07:34 PM
                             [**2113-3-29**]  09:57 PM
                             [**2113-3-30**]  01:39 AM
                             [**2113-3-30**]  09:41 AM
                             [**2113-3-30**]  09:38 PM
                             [**2113-3-31**]  04:08 AM
                             [**2113-3-31**]  04:57 AM
   WBC
   15.7
   18.5
   Hct
   35.7
   35.4
   Plt
   249
   317
   Cr
   0.6
   0.5
   0.5
   0.6
   TropT
   0.04
   TCO2
   30
   29
   23
   Glucose
   94
   78
   82
   73
   64
   Other labs: PT / PTT / INR:15.6/35.6/1.4, CK / CKMB /
   Troponin-T:218/6/0.04, ALT / AST:[**9-14**], Alk Phos / T Bili:61/0.4,
   Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:456 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   1. CHF: bilat eff, pedal edema, hyperdyanamic on Echo but 2+ MR, 3+ did
   tolerate low dose diuresis but need to replete free water deficit. I
   would favor trying to keep euvolemic until we can get her free water in
   range then she will need adjustment with low dose lasix potentially but
   will need to be slow and careful
   2. PNA: LLL
 Vanco/Zosyn empirically
   3. Leukocytosis
 add on differentail
   DDx is her PNA, on RX
   No bowel movement  - check KUB, start bowel reg, C diff. assay, po
   Vanco
   4. Hypernatremia and Hyperchloremia: free water deficit needs repletion
   today with D5W as she cannot take pos
   Trend [**Hospital1 **] as do not want to overshoot
   5. GOALS OF CARE: palliative care to meet with family today to discus
   goals of care
   I had a 1 hour meeting with them yesterdauy where they stated they want
   full treatment but would be willing to consider a DNR
 need to discuss
   amongst themselves. I emphasized that CPR would likely crush all ribs
   and create great physical injury will almost no hope of recovery and
   would not be recommended.
   ICU Care
   Nutrition: speech and swallow today
   Glycemic Control:
   Lines:
   22 Gauge - [**2113-3-31**] 12:00 AM
   Prophylaxis:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30